US07923456B2
Step 1: 6-Chloro-5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid
To a cold (−78° C.) solution of 2-fluoro-4-trimethylsilanyl-phenylamine (19.2 g, 105 mmol) in anhydrous THF (50 mL) was added a solution of LHMDS (160 mL, 1 M in hexanes, 160 mmol) dropwise over 45 minutes under a nitrogen atmosphere. After 2 hours at −78° C., a solution of 2,6-dichloro-5-fluoro-nicotinic acid (10.5 g, 50 mmol) in anhydrous THF (30 mL) was added. The mixture was stirred at −78° C. for 1 hour then allowed to warm to ambient temperature. After 18 hours stirring at ambient temperature the reaction was quenched with water and adjusted to pH 2 by the addition of concentrated HCl. The solution was extracted with ethyl acetate and the organic layer was isolated, washed with water followed by brine, dried (Na2SO4), filtered and evaporated in vacuo. The resultant residue was triturated with methanol and filtered to afford the title compound as a yellow solid (8.7 g, 49%). LCMS (method B): RT=4.92 min, [M+H]+=357.

reactant | 2-fluoro-4-trimethylsilanyl-phenylamine | 105 mmol, 19.2 g | FC1=C(C=CC(=C1)[Si](C)(C)C)N | C9H14FNSi
reactant | LHMDS | 160 mmol, 1 M, 160 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2,6-dichloro-5-fluoro-nicotinic acid | 50 mmol, 10.5 g | ClC1=C(C(=O)O)C=C(C(=N1)Cl)F | C6H2Cl2FNO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-Chloro-5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid | 8.7 g, 49% | ClC1=NC(=C(C(=O)O)C=C1F)NC1=C(C=C(C=C1)[Si](C)(C)C)F | C15H15ClF2N2O2Si
